US07786132B2
(iii) 5-(5-Chloro-2-(methylthio)pyrimidin-4-yl)-N-(4-fluorophenyl)-1,3,4-thiadiazol-2-amine
1-(5-Chloro-2-(methylthio)pyrimidine-6-carbonyl)-4-(4-fluorophenyl)thiosemicarbazide (1.08 g, 2.9 mmol) was diluted in 60 mL sulfuric acid. This solution was stirred at room temperature for 5 min before cooling in an ice bath. The reaction mixture was carefully diluted with excess H2O forming the product as a bright orange ppt. The product was collected by filtration and dried in a vacuum oven overnight to give 0.721 g (71% yield) of product as a bright orange solid. MS (M+H)+ 354.

reactant | 1-(5-Chloro-2-(methylthio)pyrimidine-6-carbonyl)-4-(4-fluorophenyl)thiosemicarbazide | 2.9 mmol, 1.08 g | ClC=1C=NC(=NC1C(=O)NNC(=S)NC1=CC=C(C=C1)F)SC | C13H11ClFN5OS2
solvent | sulfuric acid | 60 mL | S(O)(O)(=O)=O | H2O4S
solvent | H2O | O | H2O
product | 5-(5-Chloro-2-(methylthio)pyrimidin-4-yl)-N-(4-fluorophenyl)-1,3,4-thiadiazol-2-amine | 0.721 g, 71% yield | ClC=1C(=NC(=NC1)SC)C1=NN=C(S1)NC1=CC=C(C=C1)F | C13H9ClFN5S2
